US06313117B1
(b) (Benzyl-methyl-amino)-acetic acid hydrochloride salt
(Benzyl-methyl-amino)-acetic acid methyl ester (12 g, 62.1 mmol, 1.0 equiv) was dissolved in 50 mL of MeOH to which was added a solution of LiOH hydrate (8.23 g, 196 mmol, 3.0 equiv) in 50 mL of water. The mixture was stirred at room temperature for 1.3 h at which time TLC (5% MeOH in CH2Cl2) indicated consumption of the starting material. The reaction solution was washed 1×50 mL of Et2O and then the aqueous layer was acidified to pH 1 with concentrated HCl. The mixture was then evaporated to dryness under high vacuum. The resulting solid was triturated with EtOH (200 mL) and the mixture was filtered. The filtrate was then concentrated to dryness to yield a white cystalline solid that was used without further purification.

reactant | (Benzyl-methyl-amino)-acetic acid methyl ester | 62.1 mmol, 12 g, 1.0 equiv | COC(CN(C)CC1=CC=CC=C1)=O | C11H15NO2
reactant | LiOH hydrate | 196 mmol, 8.23 g, 3.0 equiv | O[Li].O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | (Benzyl-methyl-amino)-acetic acid hydrochloride salt | Cl.C(C1=CC=CC=C1)N(C)CC(=O)O | InChI=1S/C10H13NO2.ClH/c1-11(8-10(12)13)7-9-5-3-2-4-6-9;/h2-6H,7-8H2,1H3,(H,12,13);1H
